US04129648
Male albino guinea pigs weighing 400-600 g each (Dunkin Hartley strain) were anesthetized by administration of sodium pentobarbitone, 60 mg/kg intraperitoneally. The trachea was cannulated for artificial ventilation by a Starling pump (5-8 ml at 72 strokes per minute) via a Fleisch 0000 pneumatachograph. The difference in pressure across this device was measured with a Grass differential pressure transducer. This gives a flow signal which was fed into a Hewlett-Packard 8816A analogue computer. Transpulmonary pressure (TPP) was measured with another differential pressure transducer via side arms to the thoracic cavity and the tracheal cannula. The signals for low and TPP were applied to the analogue computer so that there was approximately 180° phase difference. The computer derived the dynamic compliance and resistance from the in-going signals. Drugs were administered intravenously via the external jugular vein. A 1 mg/ml solution of sodium arachidonate was prepared as follows. Arachidonic acid (10 mg, 99 percent pure) was dissolved in 0.2 ml absolute ethanol and the solution was diluted to 10 ml with 0.2 percent weight per volume sodium carbonate solution. Challenge doses of 100-500 micrograms per kg were given via the cannulated left external jugular vein and "washed in" with 0.5 ml of 0.85 percent weight per volume sodium chloride solution (saline) containing 10 units/ml of heparin. These doses were given at 30 minute intervals to produce a large but submaximal bronchoconstriction. After 2 or 3 similar responses to the same dose of sodium arachidonate had been obtained, the test substance in saline (0.1 to 1 ml) was injected intravenously. At various times thereafter, a challenge was given. The test substances used were as follows: human plasma Cohn subfraction IV4 (unheated or heated to 60° C. for 15 minutes and cooled to 20° C.); Cohn subfraction IV4 purified as described above; dexamethasone sodium phosphate; hydrocortisone sodium succinate; aldosterone; aspirin calcium salt; indomethacin sodium salt; and a drenocorticotrophin (ACTH).

reactant | sodium pentobarbitone | CCCC(C)C1(C(=O)NC(=NC1=O)[O-])CC.[Na+]
reactant | Arachidonic acid | 10 mg | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C20H32O2
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | sodium arachidonate | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)[O-].[Na+] | InChI=1S/C20H32O2.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20(21)22;/h6-7,9-10,12-13,15-16H,2-5,8,11,14,17-19H2,1H3,(H,21,22);/q;+1/p-1/b7-6-,10-9-,13-12-,16-15-;
